US06399629B1
(D) 1-(trans-4-Glycylamino-L-Prolyl)-4-(2-Chloro-5-Methylphenoxy)piperidine Dihydrochloride
A solution of 4 N hydrochloric acid in 1,4-dioxane (8 mL) was added to a solution of 1-[trans-4-(N-tert-butoxycarbonylglycylamino)-N-tert-butoxycarbonyl-L-prolyl]-4-(2-chloro-5-methylphenoxy)piperidine (C, 280 mg) in 1,4-dioxane (8 mL) at room temperature. After stirring at room temperature for 20 min, the reaction mixture was evaporated in vacuo. The residue was washed with ether to give the titled compound (142 mg) as a white powder: 1H NMR (400 MHz, D2O) δ 1.90-2.01 (4H), 2.32 (s, 3H), 2.43 (m, 1H), 2.61 (br s, 1H), 3.49 (br t, 2H), 3.67 (br s, 1H), 3.79 (m, 4H), 3.85 (s, 2H), 4.58 (br s, 1H), 5.02 (m, 1H), 6.91 (d, J=8.0 Hz, 1H), 7.09 (s, 1H), and 7.35 (d, J=8.0 Hz, 1H); mass spectrum (EI+) m/e 394 (M).

reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | 1-[trans-4-(N-tert-butoxycarbonylglycylamino)-N-tert-butoxycarbonyl-L-prolyl]-4-(2-chloro-5-methylphenoxy)piperidine | 280 mg | C(C)(C)(C)OC(=O)NCC(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)N1CCC(CC1)OC1=C(C=CC(=C1)C)Cl | C29H43ClN4O7
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 1-(trans-4-Glycylamino-L-Prolyl)-4-(2-Chloro-5-Methylphenoxy)piperidine Dihydrochloride | 142 mg | Cl.Cl.NCC(=O)N[C@@H]1C[C@H](NC1)C(=O)N1CCC(CC1)OC1=C(C=CC(=C1)C)Cl | InChI=1S/C19H27ClN4O3.2ClH/c1-12-2-3-15(20)17(8-12)27-14-4-6-24(7-5-14)19(26)16-9-13(11-22-16)23-18(25)10-21;;/h2-3,8,13-14,16,22H,4-7,9-11,21H2,1H3,(H,23,25);2*1H/t13-,16+;;/m1../s1
